US06974877B2
A mixture of 5.69 grams of aluminum tri(sec-butoxide) and 49.1 mLs of cyclohexanol was made. To this was added 2.21 grams 3,10-Dihexylpentacene-5,12-dione. The reaction mixture was heated to 145° C. for 24 hours. The mixture was cooled to room temperature and the solid isolated by centrifugation. The solid was stirred with 40 mLs of cyclohexanol and centrifuged two times. The solid was collected by filtration and washed with THF to give 2,9-dihexylpentacene.

reactant | aluminum tri(sec-butoxide) | 5.69 grams | CC([O-])CC.CC([O-])CC.CC([O-])CC.[Al+3]
reactant | 3,10-Dihexylpentacene-5,12-dione | 2.21 grams | C(CCCCC)C=1C=CC=2C=C3C=C4C(C5=CC(=CC=C5C=C4C=C3C(C2C1)=O)CCCCCC)=O | C34H36O2
solvent | cyclohexanol | 40 mLs | C1(CCCCC1)O | C6H12O
solvent | cyclohexanol | 49.1 mLs | C1(CCCCC1)O | C6H12O
product | 2,9-dihexylpentacene | C(CCCCC)C1=CC2=CC3=CC4=CC5=CC=C(C=C5C=C4C=C3C=C2C=C1)CCCCCC | C34H38
